US07563816B2
Step A: Ethyl (3-isobutyryl-6-methoxy-1H-indazol-1-yl)acetate
Dissolve 5.456 g of 1-(6-methoxy-1H-indazol-3-yl)-2-methylpropan-1-one in 100 mL anhydrous DMF. Weigh in 8.96 g cesium carbonate followed by 4.593 g ethyl bromoacetate. The resulting mixture was stirred at room temperature overnight. The solvent was removed under reduced pressure. Partition the residue between EtOAc and water. Extract the aqueous layer with EtOAc several times. The combined organic extract was washed with water (3×) and saturated brine, dried over anhydrous Na2SO4, and evaporated to give the crude product. The title compound was obtained by recrystallization from 40 mL 4:1 hexanes and EtOAc. 1H NMR (CDCl3, 500 MHz) δ 8.26 (d, 8.9 Hz, 1H), 7.00 (dd, 2.1 & 9.0 Hz, 1H), 6.685 (d, 2.1 Hz, 1H), 5.17 (s, 2H), 4.28 (q, 7.1 Hz, 2H), 3.90 (s, 3H), 3.87 (heptet, 6.9 Hz, 1H), 1.29 (t, 7.1 Hz, 3H), 1.28 (d, 6.8 Hz, 6H). LC-MS: 3.51 min. (m/Z=305.1, 327.0).

reactant | 1-(6-methoxy-1H-indazol-3-yl)-2-methylpropan-1-one | 5.456 g | COC1=CC=C2C(=NNC2=C1)C(C(C)C)=O | C12H14N2O2
reactant | ethyl bromoacetate | 4.593 g | BrCC(=O)OCC | C4H7BrO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | cesium carbonate | 8.96 g | C([O-])([O-])=O.[Cs+].[Cs+]
product | Ethyl (3-isobutyryl-6-methoxy-1H-indazol-1-yl)acetate | C(C(C)C)(=O)C1=NN(C2=CC(=CC=C12)OC)CC(=O)OCC | C16H20N2O4
